US07572809B2
b) Preparation of 3-(3,5-Dimethoxy-phenyl)-propionic acid
To a solution of 3-(3,5-Dimethoxy-phenyl)-acrylic acid (12 g, 57.7 mmol) in EtOAc (100 ml) and MeOH (100 ml) was added carefully 10% Pd/C (1.3 g), the reaction mixture was shaken in Parr apparatus for 5 hs under 30-40 psi of hydrogen, then the solution was passed through a celite pad, the filtrate was concentrated and dried at 50° C. under reduced pressure to give product (11.7 g, 96.55%). LC-MS: m/e 209 (M−1)

reactant | 3-(3,5-Dimethoxy-phenyl)-acrylic acid | 57.7 mmol, 12 g | COC=1C=C(C=C(C1)OC)C=CC(=O)O | C11H12O4
reactant | hydrogen | [H][H] | H2
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
solvent | MeOH | 100 ml | CO | CH4O
catalyst | Pd/C | 1.3 g | [Pd] | Pd
product | 3-(3,5-Dimethoxy-phenyl)-propionic acid | 11.7 g, 96.55% | COC=1C=C(C=C(C1)OC)CCC(=O)O | C11H14O4
